*$
* SCS240AE2 SiC Schottky Barrier Diode model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2012/12/27
**************** A1 C A2
.SUBCKT SCS240AE2 1 2 3
X1 1 2 SCS220A_X
X2 3 2 SCS220A_X
.ENDS SCS240AE2
*$
* SCS220A_X SiC Schottky Barrier Diode model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2013/12/05
******************A C
.SUBCKT SCS220A_X 1 2
.PARAM T0=25
.FUNC R1(I) {17.67m*I*ABS(I)**0.032*EXP((TEMP-T0)/275.6*EXP((TEMP-T0)/450.5))}
.FUNC I1(V) {IF(V>0,28.33f*(EXP(V/0.02817/EXP((TEMP-T0)/426.6*EXP((TEMP-T0)/1464)))-1)*EXP((TEMP-T0)/8.734*EXP((TEMP-T0)/-844.3)),0)}
.FUNC I2(V) {IF(V<0,418.0f*(EXP(V/10)-1)*EXP(-V/38.64*EXP((TEMP-T0)/-211.0*EXP((TEMP-T0)/550.9)))*EXP((TEMP-T0)/10.93)*(EXP((-V-918*EXP((TEMP-T0)/4000))/2)+1),0)}
.FUNC C1(V) {IF(V>0.6375,646.0+1265*V,988.3*(1-V/1.275)**-0.5552)+22.31-30.09m*V}
V1  1  3 0
E1  3  4 VALUE={R1(LIMIT(I(V1),-1MEG,1MEG))}
E2 11  0 VALUE={V(4,2)}
E3 12  0 VALUE={V(4,2)}
V2 12 13 0
C1 13  0 1p
G1  4  2 VALUE={I1(LIMIT(V(11),0,2))+I2(LIMIT(V(11),-1.2k,0))+I(V2)*C1(V(11))}
R1  4  2 1T
.ENDS SCS220A_X
*$
